US04009187
8-(5-Formyl-2-furyl)-octanoic acid
8-(5-Formyl-2-furyl)-octanoic acid methyl ester (5.04 g, 0.02 moles), methanol (30 ml) and 20% aqueous potassium carbonate (55 ml) were stirred and heated under reflux for 40 minutes. The clear solution was concentrated to 2/3 of the volume by distillation from a water bath (50° C) under reduced pressure (100 mm Hg). The residue was washed with ether (30 ml). Ether (50 ml) was added, and the resulting emulsion was acidified to pH 5 with 3N hydrochloric acid. The ethereal layer was separated. The aqueous layer was extracted with ether (30 ml). The combined ethereal extracts were washed with two 50-ml-portions of water and then dried over magnesium sulphate. The dried ethereal solution was evaporated to dryness from a water bath (60° C), at last under 15 mm Hg. The yellow crystalline residue (4.66 g), m.p. 68°-72° C, was crystallized from ethanol-water (1:3). 3.81 g (80%) of the title compound were obtained as pale yellow crystals, m.p. 70°-72° C.

reactant | 8-(5-Formyl-2-furyl)-octanoic acid methyl ester | 0.02 moles, 5.04 g | COC(CCCCCCCC=1OC(=CC1)C=O)=O | C14H20O4
reactant | potassium carbonate | 55 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 30 ml | CO | CH4O
product | 8-(5-Formyl-2-furyl)-octanoic acid | 3.81 g, 80% | C(=O)C1=CC=C(O1)CCCCCCCC(=O)O | C13H18O4
